US07148246B2
5-{2-[cis-3-(5-Methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyl]ethyl}-thiazolidine-2,4-dione
81 mg of 5-{2-[cis-3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyl]-ethylidene}thiazolidine-2,4-dione are dissolved in 10 ml of ethyl acetate, and 10 mg of paladium (10% on activated carbon) are added. The mixture is stirred under an atmosphere of hydrogen (5 bar) for 9 hours. The catalyst is then filtered off through Celite and the filtrate is concentrated under reduced pressure. The residue is purified by RP-HPLC. This gives 60 mg of 5-{2-[cis-3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyl]-ethyl}thiazolidine-2,4-dione as a lyophilisate.

reactant | 5-{2-[cis-3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyl]-ethylidene}thiazolidine-2,4-dione | 81 mg | CC1=C(N=C(O1)C=1C=C(C=CC1)C)CO[C@H]1C[C@H](CCC1)CC=C1C(NC(S1)=O)=O | C23H26N2O4S
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 5-{2-[cis-3-(5-Methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyl]ethyl}-thiazolidine-2,4-dione | CC1=C(N=C(O1)C=1C=C(C=CC1)C)CO[C@H]1C[C@H](CCC1)CCC1C(NC(S1)=O)=O | C23H28N2O4S
